US04271073
6-methyl-9-(2-hydroxyethyl)-1,2,3,4-tetrahydrocarbazol-1-one:
199 g. (1 mole) of 6-methyl-1,2,3,4-tetrahydrocarbazol-1-one dissolved in 2000 ml. of dimethylformamide are taken initially and 5.6 g. (0.1 mole) of potassium chloride dissolved in 200 ml. of water are added. Thereafter 66.1 g.=74.2 ml. (1.5 mole) of ethyleneoxide are added at room temperature and heated up to 50° C. within 30 minutes, a maximum pressure of 0.2 to 0.5 bar being generated. Stirring is done for 20 hours at 50° C., the solvent is distilled off in a vacuum, the residue stirred with a mixture of 800 ml. water and 10 ml. of glacial acetic acid, the product which took a crystalline form is filtered with suction, washed with 500 ml. water and dried at 40° C. in vacuo.

reactant | 6-methyl-1,2,3,4-tetrahydrocarbazol-1-one | 1 mole | CC=1C=C2C=3CCCC(C3NC2=CC1)=O | C13H13NO
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | potassium chloride | 0.1 mole | [Cl-].[K+]
reactant | ethyleneoxide | 1.5 mole | C1CO1 | C2H4O
solvent | water | O | H2O
product | 6-methyl-9-(2-hydroxyethyl)-1,2,3,4-tetrahydrocarbazol-1-one | CC=1C=C2C=3CCCC(C3N(C2=CC1)CCO)=O | C15H17NO2
